US07683064B2
[2-(4-Methoxy-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl]-acetic Acid Tert-Butyl Ester (I)
6-Bromo-2-(4-methoxy-benzyl)-3,4-dihydro-2H-isoquinolin-1-one (1.9 g, 5.5 mmole), Q-phos (0.0632 g, 0.11 mmole) and Pd(dba)2 (0.0781 g, 0.11 mmole) in 10 ml THF were added to 2-tert-butoxy-2-oxoethylzinc chloride 15 ml (0.55 M) under argon. The reaction mixture was stirred at room temperature for 16 hours. Next a third of the initial amount of Q-phos, Pd(dba)2 and zinc enolate were added and the mixture heated for 1 hour at 70° C. to bring the reaction to completion. The desired product (2 g; 95.6% yield) was isolated by flash chromatography using silica gel column chromatography with 10%-40% ethylacetate in hexane as eluent.

reactant | 6-Bromo-2-(4-methoxy-benzyl)-3,4-dihydro-2H-isoquinolin-1-one | 5.5 mmole, 1.9 g | BrC=1C=C2CCN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC | C17H16BrNO2
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 0.55 M, 15 ml | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Q-phos | 0.11 mmole, 0.0632 g | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
catalyst | Pd(dba)2 | 0.11 mmole, 0.0781 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [2-(4-Methoxy-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl]-acetic Acid Tert-Butyl Ester | 2 g, 95.6% yield | C(C)(C)(C)OC(CC=1C=C2CCN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC)=O | C23H27NO4
